US20010020085A1
1.95 g (80.2 mmol) of finely cut magnesium metal was placed in a 200 ml four-necked flask, and 50 ml of anhydrous tetrahydrofuran was further charged. The mixture was heated up to 70° C. while stirring, and 50 ml of a solution of 5 g (27.0 mmol) of 2-bromo p-xylene in anhydrous tetrahydrofuran was added dropwise while caring for steep reaction (reflux). After completion of the addition, it was refluxed for 30 minutes, then, cooled to 40° C., and to this was added 6.7 g (32.4 mmol) of dimethyloctylsilyl chloride while stirring. The solution was again heated and refluxed for 3 hours. The reaction mixture was charged in an aqueous saturated ammonium chloride solution, and extracted (toluene/water) and the organic phase was dried over sodium sulfate. After concentration, the product was purified and isolated by silica gel column chromatography (n-hexane) to obtain 3.19 g of 2-(dimethyloctylsilyl)-p-xylene.

reactant | magnesium | [Mg] | Mg
reactant | 2-bromo p-xylene | 27.0 mmol, 5 g | BrC1=C(C=CC(=C1)C)C | C8H9Br
reactant | dimethyloctylsilyl chloride | 32.4 mmol, 6.7 g | C[Si](CCCCCCCC)(C)Cl | C10H23ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(dimethyloctylsilyl)-p-xylene | 3.19 g | C[Si](C1=C(C=CC(=C1)C)C)(CCCCCCCC)C | C18H32Si
